US06900216B2
A mixture of 1-(benzo[b]thiophen-2-yl)-2-bromoethan-1-one (21.96 g), 2-imidazolidinethione (7.81 g) and ethanol (300 ml) was heated under reflux for 10 minutes. Acetic acid (150 ml) was added, then the mixture was heated under reflux for 18 hours and allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with ethanol (50 ml) and ether (50 ml), then dried in vacuo at 100° C. for 3 hours to give 3-(benzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (19.6 g) as a light brown solid, m.p. 275-285° C. (decomposes).

reactant | 1-(benzo[b]thiophen-2-yl)-2-bromoethan-1-one | 21.96 g | S1C2=C(C=C1C(CBr)=O)C=CC=C2 | C10H7BrOS
reactant | 2-imidazolidinethione | 7.81 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | Acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-(benzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 19.6 g | Br.S1C2=C(C=C1C=1N3C(SC1)=NCC3)C=CC=C2 | InChI=1S/C13H10N2S2.BrH/c1-2-4-11-9(3-1)7-12(17-11)10-8-16-13-14-5-6-15(10)13;/h1-4,7-8H,5-6H2;1H
